US07241760B2
3-Chloro-6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridazine
The title compound, MS: m/e=329.1 (M+), was prepared in accordance with the general method of example 1 from 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 3,6-dichloropyridazine.

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | 3-Chloro-6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridazine | ClC=1N=NC(=CC1)N1C(=NC(=C1)C#CC1=CC(=CC=C1)Cl)C | C16H10Cl2N4
